US06232310B1
a) (2-Amino-4-fluoro-phenylsulfanyl)acetonitrile
A suspension of 2-amino-5-fluoro-benzothiazole (3.45 g) was stirred for 7 h at 165-170 ° C. under nitrogen in a solution of potassium hydroxide (6.9 g) in water (13.5 ml). The resulting mixture was cooled on an ice bath to 10° C., supplemented with water (5 ml) and then a solution of acetic acid (3.5 ml) in water (4 ml). The mixture was diluted with 96% ethanol (20 ml) and subsequently a solution of iodoacetonitrile (3.42 g) in 96% ethanol (5 ml) was added. After stirring for 15 min the mixture was adjusted to pH ˜7 by adding acetic acid and approx. half of the solvent was removed in vacuo. The residue was diluted with water (100 ml) and extracted with ethyl acetate (50+3×25 ml). The combined extracts were dried over sodium sulfate, filtered and evaporated to give the title compound as a practically pure yellow oil. Yield 3.60 g (96%); 1H-NMR (DMSO-d6), δ (ppm): 7.32-7.43 (dd, 1H, Ar—H), 6.49-6.60 (dd, 1H, Ar—H), 6.29-6.43 (ddd, 1H, Ar—H), 5.88 (br, 2H, NH2), 3.82 (s, 2H, CH2).

reactant | 2-amino-5-fluoro-benzothiazole | 3.45 g | NC=1SC2=C(N1)C=C(C=C2)F | C7H5FN2S
reactant | potassium hydroxide | 6.9 g | [OH-].[K+]
reactant | acetic acid | 3.5 ml | C(C)(=O)O | C2H4O2
reactant | iodoacetonitrile | 3.42 g | ICC#N | C2H2IN
solvent | water | 13.5 ml | O | H2O
solvent | water | 4 ml | O | H2O
solvent | ethanol | 20 ml | C(C)O | C2H6O
solvent | ethanol | 5 ml | C(C)O | C2H6O
solvent | water | 5 ml | O | H2O
product | (2-Amino-4-fluoro-phenylsulfanyl)acetonitrile | NC1=C(C=CC(=C1)F)SCC#N | C8H7FN2S
